US05786358
After flame drying a 15 mL two-neck round bottom flask under argon, 0.18 g (0.57 mmol) of 5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-thien-2-ylcarboxylic acid was suspended in 2 mL of anhydrous N,N-dimethylformamide, followed by the addition of 0.19 mL (1.7 mmol) of 4-methylmorpholine. After allowing the reaction mixture to stir at room temperature for 15 minutes, 0.15 g (0.86 mmol) of 2-chloro-4,6-dimethoxyl,3,5-triazine was added. The reaction was stirred at room temperature for 30 minutes, 0.135 g (0.86 mmol) of amino-3-(2H-tetrazol-5-yl)propanoic acid was added, and the reaction mixture was stirred at room temperature for an additional 3 hours. The volatiles were removed in vacuo, and the residue was treated with 50 mL of water and the solid was filtered and dried in a vacuum oven at 60° C. The crude solid was purified using rotary chromatography on a 2 mm Chromatotron® silica gel plate, and eluted with a gradient of 20% CH3OH/CHCl3 to 60:30:10 CHCl3 /CH3OH/NH4OH. The correct fractions were combined and concentrated in vacuo to give 0.050 g (18%) of 2-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]-pyrimidin-6-yl)ethyl]thien-2-ylcarbonylamino}-3-(2H-tetrazol-5-yl)propanoic acid diammonium salt as a white solid. Rf 0.22 (5:3.5:1.5) (CHCl3 /CH3OH/NH4OH); m.p. 228° C. (foam); IR (KBr, cm-1)=553, 616, 746, 814, 1098, 1307, 1396, 1460, 1546, 1617, 3216; UV (0.1N NaOH) λmax =277, 217 (ε=19367, 19896); Exact Mass: Calcd=460.1515; Found=460.1508; 1H NM (300 MHz, DMSOd6) δ1.52-1.64 (m, 3H), 1.76-1.84 (m, 1H), 2.51-2.88 (m, 3H), 3.07-3.23 (m, 4H), 4.45-4.51 (m, 1H), 5.92 (s, 2H), 6.23 (s, 1H), 6.86 (d, J=3.1 Hz, 1H), 7.50 (d, J=3.4 Hz, 1H), 8.56 (d, J=7.3 Hz, 1H);

reactant | 5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-thien-2-ylcarboxylic acid | 0.57 mmol, 0.18 g | NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)O)O | C14H16N4O3S
reactant | 4-methylmorpholine | 1.7 mmol, 0.19 mL | CN1CCOCC1 | C5H11NO
reactant | amino-3-(2H-tetrazol-5-yl)propanoic acid | 0.86 mmol, 0.135 g | NC(C(=O)O)CC=1N=NNN1 | C4H7N5O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]-pyrimidin-6-yl)ethyl]thien-2-ylcarbonylamino}-3-(2H-tetrazol-5-yl)propanoic acid diammonium salt | 0.050 g, 18% | [NH4+].[NH4+].NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)NC(C(=O)[O-])CC=2N=NNN2)O.NC=2N=C(C1=C(N2)NCC(C1)CCC1=CC=C(S1)C(=O)NC(C(=O)[O-])CC=1N=NNN1)O | InChI=1S/2C18H21N9O4S.2H3N/c2*19-18-22-14-10(15(28)23-18)5-8(7-20-14)1-2-9-3-4-12(32-9)16(29)21-11(17(30)31)6-13-24-26-27-25-13;;/h2*3-4,8,11H,1-2,5-7H2,(H,21,29)(H,30,31)(H,24,25,26,27)(H4,19,20,22,23,28);2*1H3
